* G:\My Drive\Graduate Reserach\LTSpice\DAB Converter\DAB_D.asc
V1 N002 0 48 Rser=1
L2 N006 N008 100µ
L3 N003 N007 900µ
L1 N005 N006 5µ
C1 N001 0 50µ
R1 N001 0 10
R2 N005 N004 10
M1 N002 N004 N004 N004 NMOS
M2 N002 N008 N008 N008 NMOS
M3 N004 0 0 0 NMOS
M4 N008 0 0 0 NMOS
M5 N001 N003 N003 N003 NMOS
M6 N001 N007 N007 N007 NMOS
M7 N003 0 0 0 NMOS
M8 N007 0 0 0 NMOS
D1 N004 N002 D
D2 N008 N002 D
D3 0 N004 D
D4 0 N008 D
D5 N003 N001 D
D6 N007 N001 D
D7 0 N003 D
D8 0 N007 D
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L3 L2 1
.tran .1
.backanno
.end
